US06307047B1
2-(4-Fluorophenyl)-4-(3-oxo-1-butoxy)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone
The title compound was prepared according to the method of Example 460 starting with 2-(4-fluorophenyl)-4-hydroxy-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone in place of 2-(3,4-difluorophenyl)-4-hydroxy-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone and substituting 4-hydroxy-2-butanone in place of acetol. (yield: 85.0 mg, 20%). mp 133-136° C.; 1H NMR (300 MHz, CDCl3) δ 2.04 (s, 3H), 2.80 (t, J=9 Hz, 2H), 3.13 (s, 3H), 4.76 (t, J=9 Hz, 2H), 7.20 (t, J=9 Hz, 2H), 7.55 (m, 2H), 7.55 (d, J=9 Hz, 2H), 7.91 (s, 1H), 8.05 (d, J=9 Hz, 2H). MS (DCI/NH3) m/z 431 (M+H)+, 448 (M+NH4)+. Anal. calc. for C21H19FN2O5S: C, 58.60; H, 4.42; N, 6.52. Found: C, 58.87; H, 4.55; N, 6.51.

reactant | 2-(4-fluorophenyl)-4-hydroxy-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | FC1=CC=C(C=C1)N1N=CC(=C(C1=O)O)C1=CC=C(C=C1)S(=O)(=O)C | C17H13FN2O4S
reactant | 4-hydroxy-2-butanone | OCCC(C)=O | C4H8O2
reactant | NH3 | N | H3N
product | 2-(4-Fluorophenyl)-4-(3-oxo-1-butoxy)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | FC1=CC=C(C=C1)N1N=CC(=C(C1=O)OCCC(C)=O)C1=CC=C(C=C1)S(=O)(=O)C | C21H19FN2O5S
